US08138173B2
2-Ethyl-4-oxo-4,5-dihydro-2H-pyrazolo[3,4-c]quinoline-1-carbaldehyde (1 g) was combined with phosphorus oxychloride (10 mL) and heated at 100° C. for 30 minutes. The reaction mixture was cooled to ambient temperature, poured into a mixture of ammonium hydroxide and ice, and then stirred for 20 minutes. A solid was isolated by filtration and air dried to provide 4-chloro-2-ethyl-2H-pyrazolo[3,4-c]quinoline-1-carbaldehyde as a white powder. MS (APCI) m/z 260 (M+H)+.

reactant | 2-Ethyl-4-oxo-4,5-dihydro-2H-pyrazolo[3,4-c]quinoline-1-carbaldehyde | 1 g | C(C)N1N=C2C(NC=3C=CC=CC3C2=C1C=O)=O | C13H11N3O2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-ethyl-2H-pyrazolo[3,4-c]quinoline-1-carbaldehyde | ClC1=NC=2C=CC=CC2C=2C1=NN(C2C=O)CC | C13H10ClN3O
